US04755323
A mixture of 25 g. trans-2-p-hydroxyphenyl-5-pentyl-1,4-dioxane (obtainable by nitration of trans-2-phenyl-5-pentyl-1,4-dioxane, hydrogenation of the trans-2-p-nitrophenyl-5-pentyl-1,4-dioxane obtained to give trans-2-p-aminophenyl-5-pentyl-1,4-dioxane, diazotisation and hydrolysis), 6.9 g. K2CO3, 25 g. K2CO3, 25 g. hexyl iodide and 250 ml. DMF is heated, while stirring, for 16 hours at 80°, then cooled and up as usual. One obtains trans-2-p-hexoxyphenyl-5-pentyl-1,4-dioxane.

reactant | trans-2-p-aminophenyl-5-pentyl-1,4-dioxane | NC1=CC=C(C=C1)[C@@H]1OC[C@H](OC1)CCCCC | C15H23NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | hexyl iodide | C(CCCCC)I | C6H13I
solvent | DMF | CN(C)C=O | C3H7NO
product | trans-2-p-hexoxyphenyl-5-pentyl-1,4-dioxane | C(CCCCC)OC1=CC=C(C=C1)[C@@H]1OC[C@H](OC1)CCCCC | C21H34O3
